US08685986B2
20-(b) (6-{(Pyridin-3-ylsulfonyl)[4-(1,2,4-triazol-1-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic Acid
Reaction was carried out in the same manlier as in Example 19-(b) except for using tert-butyl[tert-butoxycarbonyl(6-{(pyridin-3-ylsulfonyl)[4-(1,2,4-triazol-1-yl)benzyl]aminomethyl}pyridin-2-yl)amino]acetate (936 mg, 1.47 mmol) obtained in Example 20-(a) in place of tert-butyl[tert-butoxycarbonyl(6-{[4-(pyridin-2-yl)benzyl]-(pyridin-3-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]acetate. After completion of the reaction, the reaction solution was concentrated under reduced pressure. The concentrate was adjusted to pH 4.5 with a 6N aqueous sodium hydroxide solution, and a precipitated solid was collected by filtration. Acetone (1.3 ml) was added to the crude product, followed by stirring at 50° C. for 1 hour, and then at room temperature for 1 hour. A precipitated solid was collected by filtration, and then dried under reduced pressure to afford the title compound (618 mg) as a white solid. (Yield: 88%)

reactant | tert-butyl[tert-butoxycarbonyl(6-{(pyridin-3-ylsulfonyl)[4-(1,2,4-triazol-1-yl)benzyl]aminomethyl}pyridin-2-yl)amino]acetate | 1.47 mmol, 936 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NCC1=CC=C(C=C1)N1N=CN=C1)S(=O)(=O)C=1C=NC=CC1)C(=O)OC(C)(C)C)=O | C31H37N7O6S
reactant | tert-butyl[tert-butoxycarbonyl(6-{[4-(pyridin-2-yl)benzyl]-(pyridin-3-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]acetate | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NS(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)C1=NC=CC=C1)C(=O)OC(C)(C)C)=O | C34H39N5O6S
product | (6-{(Pyridin-3-ylsulfonyl)[4-(1,2,4-triazol-1-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic Acid | 618 mg, Yield: 88% | N1=CC(=CC=C1)S(=O)(=O)C(C1=CC=CC(=N1)NCC(=O)O)NCC1=CC=C(C=C1)N1N=CN=C1 | C22H21N7O4S
